US05034394
N-(5-Amino-4,6-dichloropyrimidin-2-yl)acetamide (J. Org. Chem. 1975, 40, 3141) was formylated by addition of 96% formic acid (20 mL) to a solution of (0.75 g, 3.4 mmoles) dissolved in acetic anhydride (20 mL). The resulting solution was stirred at 25° C. for one hour and then evaporated to give N-(4,6-dichloro-5-formamido-2-pyrimidinyl)acetamide as tan powder (0.77 g, 91%); structure confirmed by 1H-NMR and mass spectrum. This tan powder (840 mg, 3.37 mmol), (±)-cis-4-amino-2-cyclopentene-1-methanol (940 mg, 8.2 mmol), and triethylamine (0.80 g, 8.0 mmol) were warmed in ethanol (50 mL) in an oil bath (70°-80° C.) under nitrogen for 50 minutes and evaporated to a dark oil which was chromatographed on silica gel. Title compound was eluted with 5% methanol-chloroform as a peach-colored solid foam (840 mg). Crystallization from methanol gave white granules (575 mg, 52%); m.p. 189°-193°; 1H-NMR (DMSO-d6) δ10.23 (br, 1.0, NHAc), 9.3 (br, 1.0, NHCHO), 8.15 and 7.90 (both s, total 1.0, HC=O from two conformers, peaks coalesce at 60° C.), 7.42 and 7.22 (both d, J=8.3, total 1.0, CH--NH from two conformers, peaks coalesce at 60° C.), 5.9 and 5.7 (both m, 2.0, CH=CH), 5.05 (m, 1, CH--N), 4.73 (m, 1, OH), 3.39 (m, 2, CH2OH), 2.72 (m, 1, CH), 2.40 (m, 1, 1/2CH2), 1.36 (m, 1, 1/2CH2).

reactant | N-(5-Amino-4,6-dichloropyrimidin-2-yl)acetamide | NC=1C(=NC(=NC1Cl)NC(C)=O)Cl | C6H6Cl2N4O
reactant | formic acid | 20 mL | C(=O)O | CH2O2
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(4,6-dichloro-5-formamido-2-pyrimidinyl)acetamide | 0.77 g, 91% | ClC1=NC(=NC(=C1NC=O)Cl)NC(C)=O | C7H6Cl2N4O2
